US04329347
5-(4-Phenylsulfinyl-butoxy)-carbostyril
0.165 ml of 30% hydrogen peroxide, dissolved in 8 ml of glacial acetic acid, were added to 0.56 gm of 5-(4-phenylmercapto-butoxy)-carbostyril. The mixture was diluted with water and extracted twice with chloroform. The chloroform extract was washed with dilute sodium carbonate solution and with water, dried over magnesium sulfate and evaporated. The residue was admixed with ethyl acetate, yielding colorless crystals with a melting point of 155°-157° C.

reactant | hydrogen peroxide | 0.165 ml | OO | H2O2
reactant | 5-(4-phenylmercapto-butoxy)-carbostyril | 0.56 gm | C1(=CC=CC=C1)SCCCCOC1=C2C=CC(NC2=CC=C1)=O | C19H19NO2S
solvent | acetic acid | 8 ml | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
product | 5-(4-Phenylsulfinyl-butoxy)-carbostyril | C1(=CC=CC=C1)S(=O)CCCCOC1=C2C=CC(NC2=CC=C1)=O | C19H19NO3S
